US09120825B2
In an argon atmosphere, 6.10 g (26.2 mmol) of Si(tBuNCHCHNtBu)(H)Cl was dissolved in 20 mL of tetrahydrofuran and after adding 2.15 g (purity: 99%, 26.3 mmol) of sodium thiocyanate, the mixture was stirred at room temperature for 14 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 108° C./3.3×102 Pa) to obtain 1,3-di-tert-butyl-2-thioisocyanato-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NCS) as a pale yellow liquid (yielded amount: 6.05 g, yield: 90%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 26.2 mmol, 6.10 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | sodium thiocyanate | 26.3 mmol, 2.15 g | [S-]C#N.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1,3-di-tert-butyl-2-thioisocyanato-1,3-diaza-2-silacyclopent-4-ene | yield: 90% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)N=C=S | C11H21N3SSi
